US07064136B2
1-Naphthoyl chloride (0.97 g) was combined with [2-(3,4-dichlorophenyl)]-N-[(2-carboxyethyl)ethyl]-4-pentenamine (1.49 g) and triethyl amine under standard acylation conditions to afford N-[2-(3,4-dichlorophenyl)-4-pentenyl]-N-[(2-carboxyethyl)ethyl]-3-cyano-1-naphthamide (0.56 g) as a solid after purification by chromatography (5:4:1 Hexane:DCM:EtOAc); MS: m/z 509 (M+); 1H NMR (CDCl3) δ 8.25-8.10 (m), 7.95-7.05 (m), 6.98-6.80 (m), 6.78-6.62 (m), 6.60-6.41 (m), 5.77-5.58 (m), 5.35-4.72 (m), 4.30-1.90 (m), 1.40-1.15 (m).

reactant | 1-Naphthoyl chloride | 0.97 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | [2-(3,4-dichlorophenyl)]-N-[(2-carboxyethyl)ethyl]-4-pentenamine | 1.49 g | ClC=1C=C(C=CC1Cl)C(CNCCCCC(=O)O)CC=C | C16H21Cl2NO2
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
product | N-[2-(3,4-dichlorophenyl)-4-pentenyl]-N-[(2-carboxyethyl)ethyl]-3-cyano-1-naphthamide | 0.56 g | ClC=1C=C(C=CC1Cl)C(CN(C(=O)C1=CC(=CC2=CC=CC=C12)C#N)CCCCC(=O)O)CC=C | C28H26Cl2N2O3
